US06677352B1
A solution of LTMP [freshly prepared at 0° C. from tetramethylpiperidine (227.2 mg, 1.62 mmol), TMEDA (188.3 mg, 1.62 mmol) and n-BuLi (1 mL, 1.62 mmol)] in THF (5 mL) was added to a cooled (−40° C.) and stirred solution of 2-anilino-7-chloro-6-fluoro-1-phenyl-1,8-naphthyridin-4(1H)-one (200 mg, 0.54 mmol) in THF (10 mL). The reaction mixture was warmed to 0° C., for 1 h and then re-cooled to −40° C. MeI (766 mg, 5.35 mmol) was added and the reaction mixture was allowed to warm to room temperature and was stirred overnight. The reaction was quenched carefully with water (50 mL) and then extracted with EtOAc. The combined organic extracts were washed with brine, dried over Na2SO4, and concentrated in vacuo. Silica gel flash chromatography of the residue using 1:1 EtOAc:Hex afforded 2-anilino-7-chloro-6-fluoro-5-methyl-1-phenyl-1,8-naphthyridin-4(1H)-one (184 mg, 88%) as a white solid: LCMS RT: 2.74 min, MH+: 380.3. This transformation can also be accomplished by using other amide bases such as LDA.

reactant | LTMP | [Li]N1C(CCCC1(C)C)(C)C
reactant | tetramethylpiperidine | 1.62 mmol, 227.2 mg | CC1C(N(CCC1)C)(C)C | C9H19N
reactant | TMEDA | 1.62 mmol, 188.3 mg | CN(C)CCN(C)C | C6H16N2
reactant | n-BuLi | 1.62 mmol, 1 mL | [Li]CCCC
reactant | 2-anilino-7-chloro-6-fluoro-1-phenyl-1,8-naphthyridin-4(1H)-one | 0.54 mmol, 200 mg | N(C1=CC=CC=C1)C=1N(C2=NC(=C(C=C2C(C1)=O)F)Cl)C1=CC=CC=C1 | C20H13ClFN3O
reactant | MeI | 5.35 mmol, 766 mg | CI | CH3I
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-anilino-7-chloro-6-fluoro-5-methyl-1-phenyl-1,8-naphthyridin-4(1H)-one | 184 mg, 88% | N(C1=CC=CC=C1)C=1N(C2=NC(=C(C(=C2C(C1)=O)C)F)Cl)C1=CC=CC=C1 | C21H15ClFN3O
